US08026234B2
Compound 137: (4-(9-cyclopentyl-7,7-difluoro-5-methyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxyphenyl)methanol
The title compound was synthesized by solubilizing 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid (0.36 mmol) in THF (20 mL), and adding borane-dimethylsulfide (2.0M, 1.8 mL, 3.6 mmol) slowly. The solution was stirred for 18 h and then heated to 50° C. for 2 hours. The reaction mixture was then washed with water (×2), brine, and the solvent evaporated. The final compound was purified by reverse phase HPLC and basified to give the free base (8.1 mg, 5% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.37-1.96 (m, 8H) 2.82 (s, 3H) 3.48 (t, J=13.39 Hz, 2H) 3.78 (t, J=12.00 Hz, 2H) 3.86 (s, 3H) 4.43 (d, 2H) 4.84 (t, J=7.83 Hz, 1H) 5.07 (t, J=5.81 Hz, 1H) 6.82 (d, J=8.34 Hz, 1H) 6.95 (s, 1H) 7.31 (s, 1H) 7.66 (s, 1H) 8.21 (d, J=8.08 Hz, 1H). [M+H] calculated for C21H27F2N5O2, 420. found 420.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | 0.36 mmol | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | borane dimethylsulfide | 3.6 mmol, 2.0M, 1.8 mL | B.CSC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-(9-cyclopentyl-7,7-difluoro-5-methyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxyphenyl)methanol | C1(CCCC1)N1C2=C(N(CC(C1)(F)F)C)C=NC(=N2)NC2=C(C=C(C=C2)CO)OC | C21H27F2N5O2
